US08981084B2
N-(1-(5-Cyanopyridin-2-yl)piperidin-4-yl)-3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzamide
This compound was synthesized from 6-(4-aminopiperidin-1-yl)nicotinonitrile and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (70 mg, yield 41%). 1H NMR (400 MHz, CDCl3) δ 8.42 (m, 2H), 8.27 (d, J=7.8 Hz, 1H), 8.04 (d, J=7.8 Hz, 1H), 7.66-7.61 (m, 2H), 6.67 (d, J=9.0 Hz, 1H), 6.14 (d, J=7.8 Hz, 1H), 4.51-4.48 (m, 2H), 4.39-4.29 (m, 1H), 3.20-3.13 (m, 2H), 2.24-2.20 (dd, J=12.3 Hz, 2.3 Hz, 2H), 1.62-1.52 (m, 2H). MS (ESI) m/z: Calculated for C21H17F3N6O2: 442.14. found: 443.2 (M+H)+

reactant | 6-(4-aminopiperidin-1-yl)nicotinonitrile | NC1CCN(CC1)C1=NC=C(C#N)C=C1 | C11H14N4
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | N-(1-(5-Cyanopyridin-2-yl)piperidin-4-yl)-3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzamide | yield 41% | C(#N)C=1C=CC(=NC1)N1CCC(CC1)NC(C1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F)=O | C21H17F3N6O2
